US04729986
Preparation of bis(4-Fluorophenyl)methyl(5-methylthio-1H-1,2,4-triazol-1-ylmethyl)silane
A solution of 1.5 g (0.005 mol) of bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane in 10 mL of THF was treated with n-butyllithium as described in Example 1. To this solution was added 0.63 mL (0.007 mol) of dimethyl disulfide. The reaction mixture was allowed to warm to 0°, stirred 30 minutes, then poured into 1:1 ether/hexanes, washed with 7% aqueous NaHCO3 and brine, dried over Na2SO4, filtered and evaporated. The crude product was flash chromatographed (5% ether/methylene chloride) to give 1.4 g of the title compound as a clear oil: nD 1.5750; ir (neat) 3030 (w), 2935 (w), 1587, 1496, 1230, 1160, 1106, 1035, 822 cm-1 ; nmr (CDCl3) δ 0.7 (3H, s), 2.6 (3H, s), 4.0 (2H, s), 7.1 (4H, m), 7.5 (4H, m), 7.8 (1 H, s).

reactant | bis(4-fluorophenyl)methyl(1H-1,2,4-triazol-1-ylmethyl)silane | 0.005 mol, 1.5 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1)(C)C1=CC=C(C=C1)F | C16H15F2N3Si
reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl disulfide | 0.007 mol, 0.63 mL | CSSC | C2H6S2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | bis(4-Fluorophenyl)methyl(5-methylthio-1H-1,2,4-triazol-1-ylmethyl)silane | 1.4 g | FC1=CC=C(C=C1)[Si](CN1N=CN=C1SC)(C)C1=CC=C(C=C1)F | C17H17F2N3SSi
